US04032640
2-(6-Chloro-9,10-dihydro-4H-benzo[4,5]cyclohepta[1,2-b]thiophene-4-ylimino)hexahydroazepine
80.5 g of 6-chloro-9,10-dihydro-4-hydroxyimino-4H-benzo-[4,5]cyclohepta[1,2-b]thiophene, 105 g of zinc dust and 14 g of ammonium chloride are stirred with 1750 ml of 25% ammonia solution and 350 ml of ethanol for 3 hours at the boiling temperature. Upon cooling to room temperature, the undissolved portion is filtered off and is washed with benzene. 200 ml of concentrated caustic soda solution are added to the filtrate which is extracted with a mixture of ether/benzene 1:1. The organic phase is washed with saturated common salt solution, dried over magnesium sulphate and the solvent is removed by evaporation. The remaining 4-amino-6-chloro-9,10-dihydro-4H-benzo[4,5]cyclohepta[1,2-b]thiophene is converted in ethanol into the hydrochloride. M.Pt. decomp. from 234°.

reactant | 6-chloro-9,10-dihydro-4-hydroxyimino-4H-benzo-[4,5]cyclohepta[1,2-b]thiophene | 80.5 g | ClC=1C=CC2=C(C(C3=C(SC=C3)CC2)=NO)C1 | C13H10ClNOS
reactant | ammonium chloride | 14 g | [Cl-].[NH4+]
reactant | ammonia | 1750 ml | N | H3N
catalyst | zinc | 105 g | [Zn] | Zn
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 2-(6-Chloro-9,10-dihydro-4H-benzo[4,5]cyclohepta[1,2-b]thiophene-4-ylimino)hexahydroazepine | ClC=1C=CC2=C(C(C3=C(SC=C3)CC2)N=C2NCCCCC2)C1 | C19H21ClN2S
